US04051248
1-Phenyl-8-[(cis-1,2,3,4-tetrahydro-1-hydroxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one, hydrochloride (1:1)
1-Phenyl-8-[(cis-1,2,3,4-tetrahydro-1-hydroxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one (4.0 g) is slurried in ether and treated with excess ethereal hydrogen chloride. The resulting mixture is cooled for 16 hours and the resulting precipitate is collected to yield 3.9 g of the title compound, melting point 254°-255° C.

reactant | 1-Phenyl-8-[(cis-1,2,3,4-tetrahydro-1-hydroxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one | 4.0 g | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)C[C@@H]2[C@@H](C1=CC=CC=C1CC2)O)=O | C24H29N3O2
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1-Phenyl-8-[(cis-1,2,3,4-tetrahydro-1-hydroxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one, hydrochloride | 3.9 g | Cl.C1(=CC=CC=C1)N1CNC(C12CCN(CC2)C[C@@H]2[C@@H](C1=CC=CC=C1CC2)O)=O | InChI=1S/C24H29N3O2.ClH/c28-22-19(11-10-18-6-4-5-9-21(18)22)16-26-14-12-24(13-15-26)23(29)25-17-27(24)20-7-2-1-3-8-20;/h1-9,19,22,28H,10-17H2,(H,25,29);1H/t19-,22+;/m1./s1
